data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:7]=[S:17](=[O:8])([C:19]([F:41])([F:42])[F:43])[c:38]1[cH:28][c:18]2[n+:21]([O-:15])[o:40][n:25][c:45]2[c:37]([N+:26]([O-:23])=[O:35])[cH:39]1.[c:1]1([P:20]([c:2]2[cH:11][cH:31][cH:5][cH:32][cH:12]2)([c:3]2[cH:13][cH:33][cH:6][cH:34][cH:14]2)=[CH:36][C:27]([O:22][CH2:16][CH3:44])=[O:24])[cH:9][cH:29][cH:4][cH:30][cH:10]1>>[c:1]1([P+:20]([c:2]2[cH:11][cH:31][cH:5][cH:32][cH:12]2)([c:3]2[cH:13][cH:33][cH:6][cH:34][cH:14]2)[CH:36]([C:27]([O:22][CH2:16][CH3:44])=[O:24])[CH:28]2[c:18]3[n+:21]([O-:15])[o:40][n:25][c:45]3[C:37](=[N+:26]([O-:23])[O-:35])[CH:39]=[C:38]2[S:17](=[O:7])(=[O:8])[C:19]([F:41])([F:42])[F:43])[cH:9][cH:29][cH:4][cH:30][cH:10]1", "epd": [["Pi-/Sigma+", [36, 20], [36, 28]], ["Pi-/Pi+", [28, 38], [38, 39]], ["Pi-/Pi+", [39, 37], [37, 26]], ["Pi-/LP+", [26, 35], [35]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]1([c:3]2[c:30]([CH3:9])[cH:26][c:15]([CH3:13])[cH:29][c:33]2[CH3:12])[CH:21]=[CH:20][N:2]([c:4]2[c:31]([CH3:10])[cH:27][c:16]([CH3:14])[cH:28][c:32]2[CH3:11])[C:38]1=[CH2:17].[cH:5]1[c:18]([CH+:41][c:19]2[cH:6][c:24]([F:36])[cH:40][c:25]([F:37])[cH:7]2)[cH:8][c:22]([F:34])[cH:39][c:23]1[F:35]>>[n+:1]1(-[c:3]2[c:30]([CH3:9])[cH:26][c:15]([CH3:13])[cH:29][c:33]2[CH3:12])[cH:21][cH:20][n:2](-[c:4]2[c:31]([CH3:10])[cH:27][c:16]([CH3:14])[cH:28][c:32]2[CH3:11])[c:38]1[CH2:17][CH:41]([c:18]1[cH:5][c:23]([F:35])[cH:39][c:22]([F:34])[cH:8]1)[c:19]1[cH:6][c:24]([F:36])[cH:40][c:25]([F:37])[cH:7]1", "epd": [["LP-/Pi+", [1], [38, 1]], ["Pi-/Sigma+", [17, 38], [17, 41]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[CH3:1][C:9](=[C:2]=[N-:10])[c:11]1[cH:12][cH:15][cH:23][cH:16][cH:13]1.[n+:3]1([CH3:14])[c:4]2[cH:17][cH:21][cH:19][cH:6][c:24]2[cH:8][c:25]2[c:5]1[cH:18][cH:22][cH:20][cH:7]2>>[CH3:1][C:9]([C:2]#[N:10])([CH:8]1[c:24]2[c:4]([cH:17][cH:21][cH:19][cH:6]2)[N:3]([CH3:14])[c:5]2[cH:18][cH:22][cH:20][cH:7][c:25]21)[c:11]1[cH:12][cH:15][cH:23][cH:16][cH:13]1", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [9, 2], [9, 8]], ["Pi-/Pi+", [8, 24], [24, 4]], ["Pi-/LP+", [4, 3], [3]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:15][cH:13][cH:21][cH:7]1)-[c:5]1[c:2]([cH:8][cH:22][cH:14][cH:16]1)[N+:20]2=[CH:3][CH3:18].[cH:6]1[cH:10][c:11]2[c:24]([cH:17][cH:25]1)[CH:23]=[CH:9][CH:19]2[Li:12]>>[Li+:12].[c:1]12[c:4]([c:5]3[c:2]([cH:8][cH:22][cH:14][cH:16]3)[n:20]1[CH:3]([CH3:18])[CH:19]1[CH:9]=[CH:23][c:24]3[c:11]1[cH:10][cH:6][cH:25][cH:17]3)[cH:15][cH:13][cH:21][cH:7]2", "epd": [["Sigma-/Sigma+", [19, 12], [19, 3]], ["Pi-/LP+", [3, 20], [20]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:16][CH3:15])[c:19]1[cH:9][cH:7][cH:4][cH:8][cH:10]1.[cH:1]1[cH:5][cH:2][cH:12][c:13]2[cH:18][cH:6][cH:17][c:14]-2[cH:11]1>>[cH:1]1[cH:5][cH:2][cH:12][c:13]2[c:14]([cH+:11]1)[CH:17]([CH:3]([O:16][CH3:15])[c:19]1[cH:9][cH:7][cH:4][cH:8][cH:10]1)[CH:6]=[CH:18]2", "epd": [["Pi-/Pi+", [14, 11], [13, 14]], ["Pi-/Pi+", [18, 13], [6, 18]], ["Pi-/Sigma+", [17, 6], [17, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:9]1[N+:15](=[CH:4][CH:28]=[CH:10][c:22]2[cH:5][cH:16][cH:3][cH:17][cH:6]2)[CH:13]([CH2:29][c:26]2[cH:30][cH:11][cH:18][cH:12][cH:31]2)[C:21](=[O:7])[N:27]1[CH3:20])([CH3:23])([CH3:24])[CH3:25].[n:1]1[cH:19][nH:8][cH:14][cH:32]1>>[n:1]1([CH:10]([c:22]2[cH:5][cH:16][cH:3][cH:17][cH:6]2)[CH:28]=[CH:4][N:15]2[CH:9]([C:2]([CH3:23])([CH3:24])[CH3:25])[N:27]([CH3:20])[C:21](=[O:7])[CH:13]2[CH2:29][c:26]2[cH:30][cH:11][cH:18][cH:12][cH:31]2)[cH:19][nH+:8][cH:14][cH:32]1", "epd": [["LP-/Pi+", [8], [19, 8]], ["Pi-/Sigma+", [1, 19], [1, 10]], ["Pi-/Pi+", [10, 28], [28, 4]], ["Pi-/LP+", [4, 15], [15]]]}
{"reaction_name": "Allylic rearrangement substitution", "rsmi": "[CH:1](=[CH:3][CH2:4][Cl:2])[CH3:5].[OH-:6]>>[CH:1]([CH:3]=[CH2:4])([CH3:5])[OH:6].[Cl-:2]", "epd": [["Sigma-/LP+", [2, 4], [2]], ["Pi-/Pi+", [1, 3], [3, 4]], ["LP-/Sigma+", [6], [1, 6]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[c:1]1([N:18]=[C:5]=[S:11])[cH:21][cH:12][c:8]([N+:19](=[O:3])[O-:9])[cH:13][cH:22]1.[cH:2]1[cH:6][c:7]2[c:17]([cH:14][cH:20]1)[CH:16]=[CH:4][CH:15]2[Li:10]>>[Li+:10].[c:1]1([N:18]=[C:5]([S-:11])[CH:15]2[CH:4]=[CH:16][c:17]3[c:7]2[cH:6][cH:2][cH:20][cH:14]3)[cH:21][cH:12][c:8]([N+:19](=[O:3])[O-:9])[cH:13][cH:22]1", "epd": [["Sigma-/Sigma+", [15, 10], [15, 5]], ["Pi-/LP+", [5, 11], [11]]]}
